US07754759B2
To a solution of 1-(2-hydroxy-4-phenylsulfanyl-phenyl)-ethanone (244 mg, 1 mmol) and methyl-(2-oxo-ethyl)-carbamic acid tert-butyl ester (259 mg, 1.5 mmol) (Tetrahedron 58, 2002, 1719-37) in toluene (25 mL) was added pyrrolidine (71 mg, 1 mmol). The reaction was stirred at room temperature for 60 hours. The mixture was concentrated in vacuo and the residue was purified via flash chromatography (hexane/Et2O, 3/1) to give methyl-(4-oxo-7-phenylsulfanyl-chroman-2-ylmethyl)-carbamic acid tert-butyl ester (134 mg, 34% yield) as clear oil.

reactant | 1-(2-hydroxy-4-phenylsulfanyl-phenyl)-ethanone | 1 mmol, 244 mg | OC1=C(C=CC(=C1)SC1=CC=CC=C1)C(C)=O | C14H12O2S
reactant | methyl-(2-oxo-ethyl)-carbamic acid tert-butyl ester | 1.5 mmol, 259 mg | C(C)(C)(C)OC(N(CC=O)C)=O | C8H15NO3
reactant | pyrrolidine | 1 mmol, 71 mg | N1CCCC1 | C4H9N
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
product | methyl-(4-oxo-7-phenylsulfanyl-chroman-2-ylmethyl)-carbamic acid tert-butyl ester | 134 mg, 34% yield | C(C)(C)(C)OC(N(CC1OC2=CC(=CC=C2C(C1)=O)SC1=CC=CC=C1)C)=O | C22H25NO4S
